US04663333
Preparation of N-methyl-N-[(2-methyl-6-pyridinyl)methyl]-2-propenamide
The title compound was prepared according to the method of Example 6 from 6-methyl-2-picolylmethylamine (4.27 g, 0.035 mole), acryloyl chloride (3.15 g, 0.035 mole) and triethylamine (21 ml) in methylene chloride.

reactant | 6-methyl-2-picolylmethylamine | 0.035 mole, 4.27 g | CC1=CC=CC(=N1)CCN | C8H12N2
reactant | acryloyl chloride | 0.035 mole, 3.15 g | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-methyl-N-[(2-methyl-6-pyridinyl)methyl]-2-propenamide | CN(C(C=C)=O)CC1=CC=CC(=N1)C | C11H14N2O
